US04999381
Oxalyl chloride (0.63 g) in dry THF (5 ml) was added dropwise over 5 minutes to a solution of 2-chloro-4-(2'-methylpropionamido)benzoic acid (1.0 g) in dry THF (5 ml) at room temperature. After completion of the addition, dry DMF (1 drop) was added causing vigorous effervescence and a slight temperature rise. After stirring for 4 hours and addition of a further drop of DMF, the THF was evaporated to yield 2-chloro-4-(2'-methylpropionamido)benzoyl chloride as a viscous brown gum which was used without further purification. IR (liquid film): 3320, 3260, 3160, 3070, 1780, 1710, 1680, cm-1.

reactant | Oxalyl chloride | 0.63 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-chloro-4-(2'-methylpropionamido)benzoic acid | 1.0 g | ClC1=C(C(=O)O)C=CC(=C1)NC(C(C)C)=O | C11H12ClNO3
reactant | DMF | CN(C)C=O | C3H7NO
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
product | 2-chloro-4-(2'-methylpropionamido)benzoyl chloride | ClC1=C(C(=O)Cl)C=CC(=C1)NC(C(C)C)=O | C11H11Cl2NO2
